US08664401B2
Step A: 2-(4-chloro-2,3-difluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a solution of 1-bromo-4-chloro-2,3-difluorobenzene (720 mg, 3.17 mmol) in tetrahydrofuran (10 mL) was added i-propylmagesiumchloride (1.90 mL, 3.80 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 1 h. Then 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxa-borolane (0.98 mL, 4.75 mmol) in tetrahydrofuran (5.0 mL) was added. The reaction mixture was allowed to warm up to room temperature and stirred at RT for 1 h. The mixture was used directly in the next step.

reactant | 1-bromo-4-chloro-2,3-difluorobenzene | 3.17 mmol, 720 mg | BrC1=C(C(=C(C=C1)Cl)F)F | C6H2BrClF2
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxa-borolane | 4.75 mmol, 0.98 mL | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | 2-(4-chloro-2,3-difluorophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | ClC1=C(C(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F)F | C12H14BClF2O2
